US08461328B2
A mixture of racemic trans [3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclopentyl]-carbamic acid tert-butyl ester (23.7 g, 47.2 mmol) and palladium hydroxide (2.44 g, 20%) in acetic acid (285 mL) was stirred under an atmosphere of hydrogen at 50° C. for 3 hours and then room temperature for 18 hours. The mixture was filtered through Celite® and then concentrated in vacuo. The residue was dissolved in DCM, then washed (saturated sodium hydrogen carbonate solution (3×) and brine) and concentrated to dryness. Purification by column chromatography on silica gel (gradient: DCM to ethyl acetate) afforded 11.6 g (52%) of racemic trans [3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclopentyl]-carbamic acid tert-butyl ester as a purple solid. LCMS (Method B, ESI): RT=2.85 min, m+H=472.4; 1H NMR (400 MHz, DMSO) δ: 8.00 (d, 2H), 7.66 (t, 1H), 7.57 (t, 2H), 7.52 (s, 1H), 7.45 (d, 1H), 6.97 (d, 1H), 6.82 (d, 1H), 5.21 (d, 1H), 4.35 (m, 3H), 3.95 (m, 1H), 2.13-1.91 (m, 2H), 1.79 (m, 2H), 1.44 (m, 2H), 1.37 (s, 9H).

reactant | racemic trans [3-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclopentyl]-carbamic acid tert-butyl ester | 47.2 mmol, 23.7 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2)=O | C23H27N5O6S
solvent | acetic acid | 285 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 2.44 g | [OH-].[Pd+2].[OH-]
product | racemic trans [3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclopentyl]-carbamic acid tert-butyl ester | 11.6 g, 52% | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2)=O | C23H29N5O4S
